US07125901B2
Potassium peroxymonosulfate (408 mg) was suspended in water (1 ml) and tetrahydrofuran (1 ml), and then N-{5-[4-(methylthio)phenyl]-4-[(E)-2-(4-nitrophenyl)ethenyl]-1,3-thiazol-2-yl}acetamide (182 mg) in tetrahydrofuran (3 ml) was added dropwise to the suspension at 0° C. The reaction mixture was stirred at room temperature for 2 hours, and then water was added to the suspension. The precipitate was filtered in vacuo. The solid was washed with water and ethyl acetate to give N-{5-[4-(methylsulfonyl)phenyl]-4-[(E)-2-(4-nitrophenyl)ethenyl]-1,3-thiazol-2-yl}acetamide (83 mg) as a yellow solid.

reactant | Potassium peroxymonosulfate | 408 mg | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | N-{5-[4-(methylthio)phenyl]-4-[(E)-2-(4-nitrophenyl)ethenyl]-1,3-thiazol-2-yl}acetamide | 182 mg | CSC1=CC=C(C=C1)C1=C(N=C(S1)NC(C)=O)\C=C\C1=CC=C(C=C1)[N+](=O)[O-] | C20H17N3O3S2
reactant | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | N-{5-[4-(methylsulfonyl)phenyl]-4-[(E)-2-(4-nitrophenyl)ethenyl]-1,3-thiazol-2-yl}acetamide | 83 mg | CS(=O)(=O)C1=CC=C(C=C1)C1=C(N=C(S1)NC(C)=O)\C=C\C1=CC=C(C=C1)[N+](=O)[O-] | C20H17N3O5S2
